US09447091B2
a) 1-Cyclopentyl-4-iodo-1H-pyrazole
To a solution of 4-iodo-1H-pyrazole (5 g, 25.78 mmol, 1.0 eq.) in DMF (25 ml) were added K2CO3 (8.908 g, 64.45 mmol, 2.5 eq.) and bromocyclopentane (4.96 g, 33.51 mmol, 1.3 eq.). The mixture was stirred at RT for 12 h. The mixture was quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to give the product in 89.5% yield. 1H NMR (300 MHz, CDCl3): δ 7.49 (s, 1H), 7.45 (s, 1H), 4.66-4.62 (m, 1H), 2.17-2.02 (m, 1H), 2.00-1.96 (m, 2H), 1.93-1.78 (m, 2H), 1.73-1.67 (m, 2H). LC-MS (ESI): Calculated mass: 262; Observed mass: 263 [M+H]+ (rt: 1.57 min).

reactant | 4-iodo-1H-pyrazole | 25.78 mmol, 5 g, 1.0 eq. | IC=1C=NNC1 | C3H3IN2
reactant | K2CO3 | 64.45 mmol, 8.908 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | bromocyclopentane | 33.51 mmol, 4.96 g, 1.3 eq. | BrC1CCCC1 | C5H9Br
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-Cyclopentyl-4-iodo-1H-pyrazole | 89.5% yield | C1(CCCC1)N1N=CC(=C1)I | C8H11IN2
